Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:2]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:7]([H:3])=[C:4]([H:5])[H:6],2.82945248917
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:11][H:12],3.6767978904
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.19078668535
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.38937553806
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-5.97884551049
[H:8].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-2.87977177825
[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.44068942371
[C:3]#[C:4][O:5][C:6]([H:7])[H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8],-2.27147214211
[H:12].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-3.9877535832
[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8],-5.3259404817
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:4],1.3720073683399998
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[O:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-3.60200486055
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[O:3],0.880078654509
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],3.63902479065
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.27488329577
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],1.7156731635299998
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][H:5],4.39552047611
[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.92863584449
[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:5]([H:6])([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4],2.14911558041
[C:3](=[O:4])[H:5].[O:1]=[C:2]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([C:3](=[O:4])[H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.0339741109597
[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[O:10][H:11],2.28387707692
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.64432841839
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:8][H:9].[H:7]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9],-2.67657036832
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],1.7400222259
[H:1][C:2]#[C:3][C:4]#[C:5][C:6][C:7]([H:8])[H:9]>>[C:2]#[C:3][C:6][C:7]([H:8])[H:9].[H:1][C:5]#[C:4],5.97334760819
[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:12][H:13]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.12824567766
[H:1][C:2]=[C:3]([H:4])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.5449133812399998
[C:13]([H:14])([H:15])[H:16].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.42482642459
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:2]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:3],7.32827937122
